US08034895B2
Synthesis of 2-amino-5-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester (2)
In a 250 mL flask comprising 50 ml absolute ethanol, was dissolved 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester (470 mg, 5.0 mmol) followed by 2-thiophene carboxaldehyde (646 mg, 2.5 mmol). After the addition of one drop of acetic acid, the solution was stirred at room temperature for 4 days. The solvent was then removed from the resulting orange solution and the residue was purified by flash chromatography (SiO2) using 20% ethyl acetate/hexane to afford the title compound as a yellow solid (454 mg, 52%). M.p.=145°-147° C. 1H-NMR (200 MHz, [D] chloroform): δ=9.94 (s, 1H), 8.06 (s, 1H), 7.20 (t, 1H), 7.18 (d, 1H), 7.12 (m, 1H), 7.02 (m, 1H), 4.41 (t, 2H), 4.24 (q, 2H), 1.48 (t, 3H), 1.29 (t, 3H). 13C-NMR (50 MHz, [D] chloroform): δ=164.5, 159.9, 145.9, 142.7, 134.0, 131.2, 130.2, 127.9, 102.9, 61.6, 60.3, 14.5, 14.3. FAB-MS: m/z 351.8 ([M]+, 100%). Anal. calc. for C15H16N2O4S2 (352.06): C, 51.12, H, 4.58, N, 7.95, O, 18.16, S, 18.20 found: C, 51.21; H, 4.63; N, 7.77, S, 17.81. λmax (DMSO)=402 nm. ε (DMSO)=3.6×104 M−1 dm−1; λmax (acetonitrile)=408 nm, λfl(acetonitrile)=604 nm.

reactant | 2,5-diamino-thiophene-3,4-dicarboxylic acid diethyl ester | 5.0 mmol, 470 mg | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N)N | C10H14N2O4S
reactant | 2-thiophene carboxaldehyde | 2.5 mmol, 646 mg | S1C(=CC=C1)C=O | C5H4OS
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-5-[(thiophen-2-ylmethylene)-amino]-thiophene-3,4-dicarboxylic acid diethyl ester | 454 mg, 52% | C(C)OC(=O)C1=C(SC(=C1C(=O)OCC)N=CC=1SC=CC1)N | C15H16N2O4S2
